US08486952B2
2,4-dichloro-8-(4-(trifluoromethyl)phenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine (Preparation Z) was reacted as described in Preparation Xa with ethanamine to give 2-chloro-N-ethyl-8-(4-(trifluoromethyl)phenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine (Preparation Za). LC-MS (M+H)+=358.1.

reactant | 2,4-dichloro-8-(4-(trifluoromethyl)phenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=C(C=C2)C(F)(F)F)Cl | C14H9Cl2F3N2O
reactant | ethanamine | C(C)N | C2H7N
product | 2-chloro-N-ethyl-8-(4-(trifluoromethyl)phenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=C(C=C2)C(F)(F)F)NCC | C16H15ClF3N3O
